US05292926
S-p-Methoxybenzyl-N-(2-p-Methoxybenzylthio-2-Methylpropionyl)-L-Cysteine Methyl Ester (Compound No. 13)
To a stirred solution of S-p-methoxybenzyl-N-(2-p-methoxybenzylthio-2-methylpropionyl)-L-cysteine (3.0 g) in dimethylformamide(20 ml), sodium hydride(0.3 g) was added under nitrogen atomosphere at room temperature and the mixture was stirred for 1 hour. Methyl iodide(0.5 ml) was added to the mixture. The reaction mixture was stirred for 4 hours at room temperature. Water(300 ml) was added to the reaction mixture and extracted with ether. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 2.8 g(90%) of the titled compound.

reactant | S-p-methoxybenzyl-N-(2-p-methoxybenzylthio-2-methylpropionyl)-L-cysteine | 3.0 g | COC1=CC=C(CSC[C@H](NC(C(C)(C)SCC2=CC=C(C=C2)OC)=O)C(=O)O)C=C1 | C23H29NO5S2
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | Methyl iodide | 0.5 ml | CI | CH3I
reactant | Water | 300 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | S-p-Methoxybenzyl-N-(2-p-Methoxybenzylthio-2-Methylpropionyl)-L-Cysteine Methyl Ester | 2.8 g, 90% | COC([C@@H](NC(C(C)(C)SCC1=CC=C(C=C1)OC)=O)CSCC1=CC=C(C=C1)OC)=O | C24H31NO5S2
